US08802704B2
Step 1: tert-butyl N-(2-bromo-4-cyanobenzyl)-N-methylglycinate
The title compound was prepared following the general procedure 10, starting from 2-bromo-4-cyanobenzyl bromide (Carbocor) and sarcosine tert-butyl ester hydrochloride. It was obtained as a white solid. 1H NMR (DMSO-d6, 300 MHz) δ 8.17 (d, J=1.6 Hz, 1H), 7.88 (dd, J=8.0, 1.6 Hz, 1H), 7.69 (d, J=8.0 Hz, 1H), 3.82 (s, 2H), 3.31 (s, 2H), 2.31 (s, 3H), 1.43 (s, 9H). LC/MS (Method B): 338.9, 340.9 (M+H)+. HPLC (Method A) Rt 3.10 min (Purity: 99.6%).

reactant | 2-bromo-4-cyanobenzyl bromide | BrC1=C(CBr)C=CC(=C1)C#N | C8H5Br2N
reactant | sarcosine tert-butyl ester hydrochloride | Cl.C(C)(C)(C)OC(CNC)=O
product | tert-butyl N-(2-bromo-4-cyanobenzyl)-N-methylglycinate | BrC1=C(CN(CC(=O)OC(C)(C)C)C)C=CC(=C1)C#N | C15H19BrN2O2
